US04262129
EXAMPLE 12: PREPARATION OF 3-THIENYLMALONITRILE
To 157.5 ml anhydrous i-propanol and 17.5 ml DMF, kept under N2 atmosphere, were added while stirring at 20°-35° C. 0.2 mole NaH and then, after the sodium isopropylate had been precipitated, 0.2 mole malonitrile. Within 5 minutes thereafter 0.1 mole copper (I) bromide and 0.1 mole 3-bromothiophene were added.

reactant | NaH | 0.2 mole | [H-].[Na+]
reactant | sodium | [Na] | Na
reactant | malonitrile | 0.2 mole | C(C(O)CC#N)#N | C4H4N2O
reactant | 3-bromothiophene | 0.1 mole | BrC1=CSC=C1 | C4H3BrS
catalyst | copper (I) bromide | 0.1 mole | [Cu]Br
solvent | DMF | 17.5 ml | CN(C)C=O | C3H7NO
solvent | i-propanol | 157.5 ml | C(C)(C)O | C3H8O
product | 3-THIENYLMALONITRILE | S1C=C(C=C1)C(C#N)(O)CC#N | C8H6N2OS
